US07842696B2
DIPEA (441 mg, 0.6 ml, 3.41 mmol) was added to a stirred solution of 4-hydroxyphenyl acetic acid (104 mg, 0.68 mmol) in DMF (4 mL). HOBT (101 mg, 0.748 mmol) and EDCI.HCl (245 mg, 1.28 mmol) were added at room temperature. After 2 minutes glycine ethyl ester hydrochloride (114.5 mg, 0.82 mmol) was added. The resulting mixture was stirred at room temperature for 24 hours. Water was then added, and the product was extracted with EtOAc. The organic layer was washed with brine, dried over Na2SO4 and concentrated under reduced pressure to afford 172 mg of [2-(4-hydroxy-phenyl)-acetyl amino]-acetic acid ethyl ester). LC-MS purity: 81.298%, HPLC purity 93.36%. 1H NMR (CDCl3): δ 7.1 (d, 2H), 6.8 (d, 2H), 6.0 (bs, 1H), 4.15 (q, 2H), 4.0 (d, 2H), 3.5 (s, 2H), 1.2 (t, 3H).

reactant | DIPEA | 3.41 mmol, 0.6 ml, 441 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-hydroxyphenyl acetic acid | 0.68 mmol, 104 mg | OC1=CC=C(C=C1)CC(=O)O | C8H8O3
reactant | HOBT | 0.748 mmol, 101 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI.HCl | 1.28 mmol, 245 mg | CCN=C=NCCCN(C)C.Cl
reactant | glycine ethyl ester hydrochloride | 0.82 mmol, 114.5 mg | Cl.C(C)OC(CN)=O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | [2-(4-hydroxy-phenyl)-acetyl amino]-acetic acid ethyl ester | 172 mg | C(C)OC(CNC(CC1=CC=C(C=C1)O)=O)=O | C12H15NO4
